US05284812
Into a 100 ml round bottomed flask equipped with heating mantle and magnetic stirrer, were added 2.0 g (0.017 mol) of dithiooxamide (DTO) and 21 g (0.17 mol--a tenfold excess) of o-hydroxybenzaldehyde (salicylaldehyde). The salicylaldehyde was purchased from Eastman Organic Chemicals Division of Eastman Kodak Company, Rochester, N.Y. The mixture was stirred and heated at 180°-185° C. for 2 hr. At 160° C. water began to boil off. After 2 hr, the reaction mixture was cooled to room temperature and 50 ml of ethanol/ether 1:1 were added. Stirring for 10 min was followed by filtration to remove the product. The product was washed with ethanol and dried in air overnight to afford 2.9 g (50%) of 2,5-bis(o-hydroxyphenyl)thiazolo[5,4-d]thiazole, mp 300° C. NMR and IR were in agreement with the assigned structure.

reactant | dithiooxamide | 0.017 mol, 2.0 g | NC(=S)C(=S)N | C2H4N2S2
reactant | o-hydroxybenzaldehyde | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | water | O | H2O
solvent | ethanol ether | 50 ml | C(C)O.CCOCC
product | 2,5-bis(o-hydroxyphenyl)thiazolo[5,4-d]thiazole | 2.9 g, 50% | OC1=C(C=CC=C1)C=1SC=2N=C(SC2N1)C1=C(C=CC=C1)O | C16H10N2O2S2
